US06133409
N-4-bromobenzyl-N-4-phenylbut-1-oyl-4-O-methylhydroxylamine)phenoxymethyl-copoly(styrene-1%-divinylbenzene)-resin (0.15 g, approx. 0.75 mmol/g 0.11 mmol) is suspended in diethyl ether (1 mL) and treated with 1 M solution of ethyl magnesium bromide in tetrahydrofuran (0.34 mL, 0.34 mmol). The reaction mixture is agitated for 18 hours, and then quenched by the addition of 2 M HCl (aq) (approx. pH 3 is obtained). The mixture is agitated for 30 minutes. Sodium sulfate is added and the mixture is filtered through a plug of silica gel, washed thoroughly with dichloromethane and concentrated to give of 6-phenylhexan-3-one. GC MS (EI) Area=97.1%, m/z 176.2 (M)+ ; MS (EI-LRP) m/z 176 (M)+ ; NMR (300 MHz, CDCl3) δ 1.02 (t, 3H), 1.9 (m, 2H), 2.4 (m, 4H) 2.6 (m, 2H), 7.2-7.3 (m, 5H).

reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | tetrahydrofuran | 0.34 mmol, 0.34 mL | O1CCCC1 | C4H8O
reactant | Sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | diethyl ether | 1 mL | C(C)OCC | C4H10O
product | 6-phenylhexan-3-one | C1(=CC=CC=C1)CCCC(CC)=O | C12H16O
